US08748624B2
STEP C: 5-(2-(((4-bromo-3-fluorophenyl)amino)methyl)-5-fluorophenyl)picolinic acid
A 3M aqueous solution of NaOH (0.81 mL, 2.4 mmol) was added to a THF solution (13.7 mL) of methyl 5-(2-(((4-bromo-3-fluorophenyl)amino)methyl)-5-fluorophenyl)picolinate (350 mg, 0.8 mmol) and the resulting mixture was stirred at room temperature. After 2 h the resulting mixture was concentrated in vacuo, suspended in water, and acidified with 2 M HCl. The resulting precipitate was filtered off and dried in vacuo to yield the title compound.

reactant | NaOH | 2.4 mmol, 0.81 mL | [OH-].[Na+]
reactant | methyl 5-(2-(((4-bromo-3-fluorophenyl)amino)methyl)-5-fluorophenyl)picolinate | 0.8 mmol, 350 mg | BrC1=C(C=C(C=C1)NCC1=C(C=C(C=C1)F)C=1C=CC(=NC1)C(=O)OC)F | C20H15BrF2N2O2
solvent | THF | 13.7 mL | C1CCOC1 | C4H8O
product | 5-(2-(((4-bromo-3-fluorophenyl)amino)methyl)-5-fluorophenyl)picolinic acid | BrC1=C(C=C(C=C1)NCC1=C(C=C(C=C1)F)C=1C=CC(=NC1)C(=O)O)F | C19H13BrF2N2O2
